US05314887
Part F: 2-Amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylthio}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester
To a 5 liter 4-neck round-bottom flask fitted with mechanical stirrer, reflux condenser and thermowell, under a nitrogen atmosphere, was added 37.87 g of 2-amino- 1,4-dihydro-4-(2-[(4-chlorobutyl)thio]phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester, 3.5 liters of isopropanol, 35.35 g of 1-(2-methoxyphenyl)piperazine, 27.57 g of sodium iodide and 15.45 g of sodium bicarbonate. The reaction mixture was heated at reflux for 6.5 hr., then stirred overnight at room temperature. The solvent was removed by rotary evaporation and the residue was partitioned between dichloromethane and water. The aqueous layer was washed with dichloromethane (2×300 ml), the organic layers combined, washed with water, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by column chromatography, eluting with 5% methanol in ethyl acetate. The product (Ex. No. 1, Table 1) was isolated as an orange solid, 37.23 g. 1H-NMR (d6 -DMSO) δ 1.60(m,4H); 2.33(m,2H); 2.40(s,3H); 2.45(m,4H); 2.92(m,6H); 3.43(s,3H); 3.76(s,3H); 5.59(s,1H); 6.73-6.95 (m,6H); 7.09(m,2H); 7.35(m,1H); 9.50(br s,1H). Mass spectrum: 568 (M+1).

reactant | 2-amino- 1,4-dihydro-4-(2-[(4-chlorobutyl)thio]phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | 37.87 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)SCCCCCl)[N+](=O)[O-])C)N | C18H22ClN3O4S
reactant | 1-(2-methoxyphenyl)piperazine | 35.35 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium iodide | 27.57 g | [I-].[Na+]
reactant | sodium bicarbonate | 15.45 g | C([O-])(O)=O.[Na+]
solvent | isopropanol | 3.5 liters | C(C)(C)O | C3H8O
product | 2-Amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylthio}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)SCCCCN1CCN(CC1)C1=C(C=CC=C1)OC)[N+](=O)[O-])C)N | C29H37N5O5S
